US05912256
A mixture of 0.172 gm (0.82 mMol) 1-(4-indolyloxy)-3-chloropropane, 0.200 gm (0.82 mMol) 4-hydroxy-4-(6-hydroxynaphth-2-yl)piperidine, and 0.17 gm (1.2 mMol) potassium carbonate in 6 mL acetonitrile were stirred at reflux for 18 hours. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate and 2N sodium hydroxide. The phases were separated and the aqueous phase extracted well with ethyl acetate. The combined organic phases were washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to radial chromatography (silica, 2 mm plate), eluting with 2% methanol in dichloromethane containing a trace of ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 0.085 gm (25%) 1-(4-indolyloxy)-3-[4-hydroxy-4-(6-hydroxynaphth-2-yl)piperidine-1-yl]propane as a foam. The oxalate salt was prepared to provide the title compound.

reactant | 1-(4-indolyloxy)-3-chloropropane | 0.82 mMol, 0.172 gm | N1C=CC2=C(C=CC=C12)OCCCCl | C11H12ClNO
reactant | 4-hydroxy-4-(6-hydroxynaphth-2-yl)piperidine | 0.82 mMol, 0.200 gm | OC1(CCNCC1)C1=CC2=CC=C(C=C2C=C1)O | C15H17NO2
reactant | potassium carbonate | 1.2 mMol, 0.17 gm | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 1-(4-indolyloxy)-3-[4-hydroxy-4-(6-hydroxynaphth-2-yl)piperidine-1-yl]propane | 0.085 gm, 25% | N1C=CC2=C(C=CC=C12)OCCCN1CCC(CC1)(C1=CC2=CC=C(C=C2C=C1)O)O | C26H28N2O3
